US05470870
Step b: Ethyl 2-(hydroxyimino)-3-(4,6-dichloro-3-indolyl)propanoate
Mix 4,6-dichloroindole (5.90 g, 31.72 mmol), potassium carbonate (1.81 g, 47.6 mmol) and anhydrous methylene chloride (200 mL). Stir and add a solution of ethyl 3-bromo-2-hydroxyiminopropanoate (7.00 g, 33.31 mmol) in methylene chloride (75 mL). Stir under a nitrogen atmosphere for 48 hours. Take the solution up in methylene chloride (100 mL) and wash with water (300 mL), saturated sodium hydrogen carbonate (200 mL) and brine (100 mL). Dry (MgSO4) and evaporate the solvent in vacuo to give a tan solid. Purify by silica gel chromatography (1 to 3% acetone in chloroform) to give the title compound as a yellow solid (7.00 g, 99% based on consumed starting material). Recrystallize (diethyl ether/hexane) to give the title compound as white crystals (4.0 g, 56%); mp 175°-176° C.

reactant | 4,6-dichloroindole | 31.72 mmol, 5.90 g | ClC1=C2C=CNC2=CC(=C1)Cl | C8H5Cl2N
reactant | potassium carbonate | 47.6 mmol, 1.81 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 3-bromo-2-hydroxyiminopropanoate | 33.31 mmol, 7.00 g | BrCC(C(=O)OCC)=NO | C5H8BrNO3
solvent | methylene chloride | 75 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | Ethyl 2-(hydroxyimino)-3-(4,6-dichloro-3-indolyl)propanoate | 7.00 g, 99% | ON=C(C(=O)OCC)CC1=CNC2=CC(=CC(=C12)Cl)Cl | C13H12Cl2N2O3
